US07491710B2
3-(1-tert-Butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-hydroxyindazole-1-carboxylic acid tert-butyl ester is prepared, according to procedure D, using 800 mg of 5-benzyloxy-3-(1-tert-butoxycarbonyl-1H-indol-2-yl)indazole-1-carboxylic acid tert-butyl ester, 560 mg of ammonium formate, and 800 mg of 10% palladium-on-charcoal in 30 ml of absolute ethanol. 700 mg of 3-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-hydroxyindazole-1-carboxylic acid tert-butyl ester are obtained.

reactant | 5-benzyloxy-3-(1-tert-butoxycarbonyl-1H-indol-2-yl)indazole-1-carboxylic acid tert-butyl ester | 800 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C32H33N3O5
reactant | ammonium formate | 560 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 800 mg | [Pd] | Pd
product | 3-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-hydroxyindazole-1-carboxylic acid tert-butyl ester | 700 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)O)C1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C25H29N3O5
